US09340546B2
A solution of 3-bromo-4-chloro-5-nitro-pyridine (500 mg, 2.106 mmol), hydrazine hydrate (158.1 mg, 153.6 μL, 3.159 mmol) in ethanol (5.000 mL) was stirred at RT for 1 h. The bright yellow precipitate was filtered, washed with methanol and dried under vacuum to leave 3-bromo-4-hydrazinyl-5-nitropyridine (390 mg, 79.5%). MS (ES−) 232.8.

reactant | 3-bromo-4-chloro-5-nitro-pyridine | 2.106 mmol, 500 mg | BrC=1C=NC=C(C1Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | hydrazine hydrate | 3.159 mmol, 153.6 μL, 158.1 mg | O.NN
solvent | ethanol | 5.000 mL | C(C)O | C2H6O
product | 3-bromo-4-hydrazinyl-5-nitropyridine | 390 mg, 79.5% | BrC=1C=NC=C(C1NN)[N+](=O)[O-] | C5H5BrN4O2
